US05057525
A mixture of 3.12 parts of cis-4-amino-5-chloro-N-[1-[4-(4-fluorophenyl)-3-butenyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide and 120 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of platinum-on-charcoal catalyst 5%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off and the filtrate was evaporated. The residue was stirred in 1,1'-oxybisethane. The product was filtered off and dried, yielding 2.54 parts (81%) of cis-4-amino-5-chloro-N-[1-[4-(4-fluorophenyl)butyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide monohydrate; mp. 132.7° C. (compound 237).

reactant | cis-4-amino-5-chloro-N-[1-[4-(4-fluorophenyl)-3-butenyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCC=CC2=CC=C(C=C2)F)OC)C=C1Cl)OC | C24H29ClFN3O3
reactant | hydrogen | [H][H] | H2
catalyst | platinum-on-charcoal | [Pt] | Pt
solvent | methanol | CO | CH4O
product | cis-4-amino-5-chloro-N-[1-[4-(4-fluorophenyl)butyl]-3-methoxy-4-piperidinyl]-2-methoxybenzamide monohydrate | 81% | O.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCCC2=CC=C(C=C2)F)OC)C=C1Cl)OC | InChI=1S/C24H31ClFN3O3.H2O/c1-31-22-14-20(27)19(25)13-18(22)24(30)28-21-10-12-29(15-23(21)32-2)11-4-3-5-16-6-8-17(26)9-7-16;/h6-9,13-14,21,23H,3-5,10-12,15,27H2,1-2H3,(H,28,30);1H2/t21-,23+;/m0./s1
